US07244725B2
Step 3 Preparation of N-{(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-3,4-dihydro-2H-chromen-4-yl)amino]propyl}acetamide
Tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-3,4-dihydro-2H-chromen-4-yl)amino]propylcarbamate (3.0 g, 5.2 mmol) was dissolved in 30 mL of 25% TFA/CH2Cl2 and stirred at room temperature for 30 min. The mixture was diluted with CH2Cl2 50 mL and washed with NaHCO3 (2×30 mL). The organic layer was washed with brine (1×50 mL) and dried over Na2SO4. The solvent was removed in vacuo and the resulting residue dissolved in 52 mL of CH2Cl2. The mixture was chilled to 0° C. followed by the addition of Et3N (1.0 mL, 11.9 mmol) and acetyl imidazole (0.68 g, 6.2 mmol). The mixture was warm spontaneously over night. The CH2Cl2 was removed in vacuo and the residue dissolved in EtOAc (100 mL) and washed with 1N HCl (2×30 mL), NaHCO3 (1×30 mL), brine, dried over Na2SO4, and conc. in vacuo to yield 2.5 g (92%) of the title compound as a light yellow solid. MS (ESI+) for C21H23F2IN2O3 m/z 517.0 (M+H)+.

reactant | Tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-3,4-dihydro-2H-chromen-4-yl)amino]propylcarbamate | 5.2 mmol, 3.0 g | FC=1C=C(C[C@@H]([C@@H](CNC2CCOC3=CC=C(C=C23)I)O)NC(OC(C)(C)C)=O)C=C(C1)F | C24H29F2IN2O4
reactant | Et3N | 11.9 mmol, 1.0 mL | CCN(CC)CC | C6H15N
reactant | acetyl imidazole | 6.2 mmol, 0.68 g | C(C)(=O)C=1NC=CN1 | C5H6N2O
solvent | TFA CH2Cl2 | 30 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | N-{(1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-[(6-iodo-3,4-dihydro-2H-chromen-4-yl)amino]propyl}acetamide | 2.5 g, 92% | FC=1C=C(C[C@@H]([C@@H](CNC2CCOC3=CC=C(C=C23)I)O)NC(C)=O)C=C(C1)F | C21H23F2IN2O3
